US07183293B2
(S)-3-(4-Aminomethyl-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester hydrochloride of Formula (5.0.39)
(S)-3-(4-Cyano-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester (0.14 g) was shaken on a Parr shaker under 50 psi hydrogen for 16 h, using palladium hydroxide on carbon (0.01 g, 30% Pd by wt) in anhydrous methanol (20 mL) and concentrated hydrochloric acid (0.5 mL). The reaction mixture was filtered through sintered glass, and solvents removed in vacuo to afford 0.18 g of a white solid (95% yield).

reactant | (S)-3-(4-Cyano-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester | 0.14 g | COC([C@H](COC1=CC(=C(C=C1)C#N)F)C)=O | C12H12FNO3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.01 g | [OH-].[OH-].[Pd+2]
product | (S)-3-(4-Aminomethyl-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester hydrochloride | 0.18 g, 95% yield | Cl.COC([C@H](COC1=CC(=C(C=C1)CN)F)C)=O | InChI=1S/C12H16FNO3.ClH/c1-8(12(15)16-2)7-17-10-4-3-9(6-14)11(13)5-10;/h3-5,8H,6-7,14H2,1-2H3;1H/t8-;/m0./s1
